US06306840B1
A solution of salicylamide (4.14 g, 30.2 mmol) and conc. sulfuric acid (3 drops) in acetone (40 mL) was refluxed for 5 h. The reaction was concentrated and the residue taken up in ethyl acetate. The organic solution was washed with 1 N NaOH (2×), 1 N HCl (2×), H2O, then sat. aq. NaCl, dried (MgSO4) and concentrated to afford 2,2-dimethyl-4-keto-1,3-benzoxazine (2.50 g, 47%) as a white solid: 1H NMR (CDCl3, 300 MHz, ppm) 7.92 (d, 1H), 7.60 (bs, 1H), 7.47 (m, 1H), 7.06 (m, 1H), 6.92 (d, 1H), 1.65 (s, 6H).

reactant | salicylamide | 30.2 mmol, 4.14 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | acetone | 40 mL | CC(=O)C | C3H6O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | 2,2-dimethyl-4-keto-1,3-benzoxazine | 2.50 g, 47% | CC1(OC2=C(C(N1)=O)C=CC=C2)C | C10H11NO2
